US05153210
A mixture of 10-(4-acetonylphenoxy)decylbromide, ethylene ketal (3.0 g), potassium carbonate (3.8 g), pyrazolidin-3-one hydrochloride (1.47 g) and potassium iodide (0.5 g) in acetonitrile:water (95:5), was heated under reflux for 3 hr. The reaction mixture was allowed to cool, filtered and the solvent evaporated in vacuo. The residue was dissolved in chloroform, washed with water (2×50 ml), dried (magnesium sulphate), fitered and the solvent removed in vacuo. The residue was dissolved in acetone (50 ml) and treated with 2M hydrochloric acid solution (3 ml) and allowed to stand at room temperature for 3 hr. The solvent was removed in vacuo and the residue was dissolved in chloroform and washed with 1.2M sodium bicarbonate solution (1×50 ml), water (2×50 ml), dried (magnesium sulphate), filtered and the solvent removed in vacuo to give 1-[10-(4-acetonylphenoxy)decyl]pyrazolidin-3-one (0.66 g).

reactant | 10-(4-acetonylphenoxy)decylbromide | C(C(=O)C)C1=CC=C(OCCCCCCCCCCBr)C=C1 | C19H29BrO2
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyrazolidin-3-one hydrochloride | 1.47 g | Cl.N1NC(CC1)=O
reactant | potassium iodide | 0.5 g | [I-].[K+]
solvent | acetonitrile water | C(C)#N.O
product | 1-[10-(4-acetonylphenoxy)decyl]pyrazolidin-3-one | 0.66 g | C(C(=O)C)C1=CC=C(OCCCCCCCCCCN2NC(CC2)=O)C=C1 | C22H34N2O3
